US07456218B2
4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-carbaldehyde
To a solution of 1-oxa-6-thiaspiro[2.5]octane (6.33 g, 48.6 mmol) and 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde (10.0 g, 44.2 mmol) in N,N-dimethylformamide (150 mL) was added potassium carbonate (6.11 g, 44.2 mmol) at room temperature with stirring and the mixture was stirred at 100° C. for 12 hrs. The reaction mixture was concentrated under reduced pressure. To the residue was added 1 M hydrochloric acid to neutralize the solution and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, concentrated under reduced pressure and crystallized by adding diisopropyl ether to the obtained oil. The crystals were collected by filtration to give the title compound (12.3 g, yield 78%) as colorless crystals.

reactant | 1-oxa-6-thiaspiro[2.5]octane | 48.6 mmol, 6.33 g | O1CC12CCSCC2 | C6H10OS
reactant | 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde | 44.2 mmol, 10.0 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C15H14O2
reactant | potassium carbonate | 44.2 mmol, 6.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-carbaldehyde | 12.3 g, yield 78% | OC1(CCSCC1)COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C21H24O3S
